US06221422B1
Preparation of Lactitol Chocolate
Example 2 was repeated, but instead of fructose lactitol (32.95%) was used, and aspartame (0.05%) was added in the last mixing step which in this case was performed in a Stephan mixer.

reactant | fructose lactitol | OCC(=O)[C@@H](O)[C@H](O)[C@H](O)CO.C([C@@H]1[C@@H]([C@@H]([C@H]([C@@H](O1)O[C@@H]2[C@H](O[C@@]([C@H]2O)(CO)O)CO)O)O)O)O
reactant | aspartame | COC(=O)[C@H](CC=1C=CC=CC1)NC(=O)[C@H](CC(=O)O)N | C14H18N2O5
product | Lactitol | C([C@@H]1[C@@H]([C@@H]([C@H]([C@@H](O1)O[C@@H]2[C@H](O[C@@]([C@H]2O)(CO)O)CO)O)O)O)O | C12H22O11
